* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft2.asc
R1 d 0 6k
R2 a c 2k
R3 0 d 7k
L2 d a 400n
C2 d a 0.3m
V1 c 0 SINE(0 1 10K)
.tran 0.1m
.backanno
.end
